US08445510B2
5-Bromo-3-[(2-chloro-6-ethoxy-3-fluorophenyl)-methoxymethyl]-1H-pyrrolo[2,3-b]pyridine
A solution of 2-Chloro-6-ethoxy-3-fluorobenzaldehyde (2.0 g, 9.8 mmol), 5-bromo-7-azaindole (1.8 g, 8.9 mmol) and KOH (797 mg, 14.2 mmol) in methanol (30 mL) was stirred for 48 h at room temperature. The reaction mixture was concentrated to dryness and diluted with saturated aq. ammonium chloride. The aq. layer was extracted with ethyl acetate (2×30 mL). The combined organic layers were dried (Na2SO4) and concentrated to give a residue that was purified by column chromatography (5/95, methanol/DCM) to give the title compound as foamy solid. 1H NMR (CDCl3, 400 MHz): δ=1.35 (t, 3H, J=7.2 Hz), 3.43 (s, 3H), 4.0 (q, 1H, J=7.2 Hz), 4.07 (q, 1H, J=7.2 Hz), 6.39 (s, 1H), 6.81 (dd, 1H, J=4.0, 9.2 Hz), 7.01 (t, 1H, J=8.4 Hz), 8.06 (d, 1H, J=2.0 Hz), 8.29 (d, 1H, J=2.0 Hz), 9.49 (s, 1H).

reactant | 2-Chloro-6-ethoxy-3-fluorobenzaldehyde | 9.8 mmol, 2.0 g | ClC1=C(C=O)C(=CC=C1F)OCC | C9H8ClFO2
reactant | 5-bromo-7-azaindole | 8.9 mmol, 1.8 g | BrC=1C=C2C=CNC2=NC1 | C7H5BrN2
reactant | KOH | 14.2 mmol, 797 mg | [OH-].[K+]
reactant | methanol | 30 mL | CO | CH4O
product | 5-Bromo-3-[(2-chloro-6-ethoxy-3-fluorophenyl)-methoxymethyl]-1H-pyrrolo[2,3-b]pyridine | BrC=1C=C2C(=NC1)NC=C2C(OC)C2=C(C(=CC=C2OCC)F)Cl | C17H15BrClFN2O2
